US05300675
Example 1: Preparation of p-methoxybenzenediazonium tetrafluoroborate
p-Anisidine (30.75 g, 0.25 mole) was dissolved in aqueous tetrafluoroboric acid (48%, 110 ml) in a 500 ml 3 necked flask fitted with mechanical stirring, and cooled to 0°-10° C. Sodium nitrite (17.5 g, 0.25 mole) was separately dissolved in water (34 ml) and the solution cooled to 5°-10° C., and was then added dropwise to the reaction mixture over 60 minutes. The reaction mixture was stirred for about 45 minutes at 0°-10° C., and then tested with starch-iodide paper for excess nitrous acid. Any excess nitrous acid was destroyed by adding a small amount (approx. 0.1 g.) of sulfamic acid. The precipitate was filtered, washed once with ice-cold water (about 30 ml), and then twice with methanol (20 ml each time). The product diazonium tetrafluoroborate was dried under vacuum at ambient temperature. Yield 45.4 g (about 82%). This could be purified by dissolving in minimum amount of acetone, and precipitating with ether, repeating this process three times. The final product was filtered, washed with ether (30 ml), and dried.

reactant | p-Anisidine | 0.25 mole, 30.75 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | Sodium nitrite | 0.25 mole, 17.5 g | N(=O)[O-].[Na+]
reactant | nitrous acid | N(=O)O | HNO2
reactant | tetrafluoroboric acid | 110 ml | F[B-](F)(F)F.[H+]
solvent | water | 34 ml | O | H2O
product | p-methoxybenzenediazonium tetrafluoroborate | F[B-](F)(F)F.COC1=CC=C(C=C1)[N+]#N | InChI=1S/C7H7N2O.BF4/c1-10-7-4-2-6(9-8)3-5-7;2-1(3,4)5/h2-5H,1H3;/q+1;-1
